US06900216B2
A mixture of 2-bromo-1-(4-chlorobenzo[b]thiophen-2-yl)propan-1-one (0.5 g), 3,4,5,6-tetrahydro-2-pyrimidinethiol (0.144 g) and ethanol (8 ml) was heated under reflux for 20 minutes. Acetic acid (4 ml) was added, the mixture was heated under reflux for 18 hours then the solvents were removed in vacuo. 2.5M Sulphuric acid (10 ml) was added, the mixture was heated at 95° C. for 4.5 hours, then water (30 ml) was added and the mixture was basified to pH 7 by the addition of 5M aqueous sodium hydroxide solution. The product was extracted into dichloromethane (3×25 ml), the combined extracts were dried (MgSO4), and the solvent was removed in vacuo. The residue was dissolved in ethanol (20 ml) and hydrogen bromide (30% solution in acetic acid; 0.5 ml) was added. The solution was added dropwise to stirred ether (50 ml) and the resulting solid was collected by filtration and recrystallised from propan-2-ol (35 ml) to give 3-(4-chlorobenzo[b]thiophen-2-yl)-2-methyl-6,7-dihydro-5H-thiazolo[3,2-a]pyrimidine hydrobromide (0.2 g) as a white solid, m.p. 236-238° C.

reactant | 2-bromo-1-(4-chlorobenzo[b]thiophen-2-yl)propan-1-one | 0.5 g | BrC(C(=O)C1=CC2=C(S1)C=CC=C2Cl)C | C11H8BrClOS
reactant | 3,4,5,6-tetrahydro-2-pyrimidinethiol | 0.144 g | N1=C(NCCC1)S | C4H8N2S
reactant | ethanol | 8 ml | C(C)O | C2H6O
solvent | Acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 3-(4-chlorobenzo[b]thiophen-2-yl)-2-methyl-6,7-dihydro-5H-thiazolo[3,2-a]pyrimidine hydrobromide | 0.2 g | Br.ClC1=CC=CC=2SC(=CC21)C2=C(SC=1N2CCCN1)C | InChI=1S/C15H13ClN2S2.BrH/c1-9-14(18-7-3-6-17-15(18)19-9)13-8-10-11(16)4-2-5-12(10)20-13;/h2,4-5,8H,3,6-7H2,1H3;1H
